US07012089B2
2-(4-Chloro-2-nitro-phenyl)-ethanol (known Compound 16764-17-3)
To a solution of 4-chloro-1-methyl-2-nitro-benzene (171.6 g, 0.5 mole) in DMSO (150 mL) was added paraformaldehyde (30.0 g, 1.0 mole), followed by potassium hydroxide (1.5 g, 0.027 mol) in ethanol (10 mL). The resulting reaction mixture was stirred at room temperature for six days and water (2 L) was added and the mixture neutralized with hydrochloric acid (2 N). The mixture was extracted with ethyl ether (2×1 L) and the combined organic layers were washed with water (1 L), saturated sodium chloride (1 L), dried (sodium sulfate) and concentrated to a yellow solid. Purification by flash column chromatography (silica gel, methylene chloride:hexanes 1:2) provided 63.0 g of the title compound as a yellow solid. 1H NMR (DMSO-d6): 7.90 δ (s, 1H); 7.50 δ (d, 1H); 7.36 δ (d, 1H); 3.90 δ (t, 2H); 3.15 δ (t, 2H); 1.50 δ (broad, 1H).

reactant | 4-chloro-1-methyl-2-nitro-benzene | 0.5 mole, 171.6 g | ClC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | paraformaldehyde | 1.0 mole, 30.0 g | C=O | CH2O
reactant | water | 2 L | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | DMSO | 150 mL | CS(=O)C | C2H6OS
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | potassium hydroxide | 0.027 mol, 1.5 g | [OH-].[K+]
product | 2-(4-Chloro-2-nitro-phenyl)-ethanol | 63.0 g | ClC1=CC(=C(C=C1)CCO)[N+](=O)[O-] | C8H8ClNO3
